US04973600
1.5 g of ethyl 4,5-dichloro-6-(1-[2-pyridyl]-5-pyrazolylcarbonyl)-1,3-benzodioxole-2-carboxylate are dissolved in a mixture of 18 ml of tetrahydrofuran and 2 ml of water. 177 mg of lithium hydroxide monohydrate are added to the solution and the mixture is stirred at room temperature for one hour. The reaction mixture is concentrated under reduced pressure to remove tetrahydrofuran. Water and 1N hydrochloric acid are added to the residue, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated under reduced pressure to remove solvent. The residue is recrystallized from ethyl acetate-n-hexane to give 1.35 g of 4,5-dichloro-6-[1-(2-pyridyl)-5-pyrazolylcarbonyl]-1,3-benzodioxole-2-carboxylic acid. Yield: 96%

reactant | ethyl 4,5-dichloro-6-(1-[2-pyridyl]-5-pyrazolylcarbonyl)-1,3-benzodioxole-2-carboxylate | 1.5 g | ClC1=C(C(=CC=2OC(OC21)C(=O)OCC)C(=O)C2=CC=NN2C2=NC=CC=C2)Cl | C19H13Cl2N3O5
reactant | lithium hydroxide monohydrate | 177 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4,5-dichloro-6-[1-(2-pyridyl)-5-pyrazolylcarbonyl]-1,3-benzodioxole-2-carboxylic acid | 1.35 g, Yield: 96% | ClC1=C(C(=CC=2OC(OC21)C(=O)O)C(=O)C2=CC=NN2C2=NC=CC=C2)Cl | C17H9Cl2N3O5
